US04992586
Preparation of 2-(β,γ-dihydroxypropyl)amino-6-(β,γ-dihydroxypropyl)aminonitrobenzene
240 mg of palladium at a concentration of 10% on calcium carbonate are added to 0.012 mole (4 g) of 4-chloro-2-(β,γ-dihydroxypropyl)amino-6-(β,γ-dihydroxypropyl)-aminonitrobenzene in 8.6 ml of triethylamine. 0.8 ml of acetic acid and 1.65 ml of formic acid are then added dropwise. The reaction mixture is heated under reflux for 7 hours. 10 ml of water are added. The reaction mixture diluted in this manner is filtered hot to remove the catalyst. The filtrate is evaporated to dryness under vacuum in the presence of absolute ethanol. The residue is dissolved in the minimum quantity of water. The expected product is extracted with ethyl acetate. The ethyl acetate phases are evaporated to dryness, after drying over sodium sulphate. After a small quantity of water has been added to the oil obtained, the expected product precipitates. Recrystallized from ethyl acetate, it melts at 138° C.

reactant | 4-chloro-2-(β,γ-dihydroxypropyl)amino-6-(β,γ-dihydroxypropyl)-aminonitrobenzene | 0.012 mole, 4 g | ClC1=C(C(=C(C(=C1)CC(CO)O)[N+](=O)[O-])NCC(CO)O)N | C12H18ClN3O6
reactant | acetic acid | 0.8 ml | C(C)(=O)O | C2H4O2
reactant | formic acid | 1.65 ml | C(=O)O | CH2O2
reactant | water | 10 ml | O | H2O
reactant | triethylamine | 8.6 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium | 240 mg | [Pd] | Pd
product | 2-(β,γ-dihydroxypropyl)amino-6-(β,γ-dihydroxypropyl)aminonitrobenzene | OC(CNC1=C(C(=CC=C1)NCC(CO)O)[N+](=O)[O-])CO | C12H19N3O6
